US04013645
Sodium 3-acetoxymethyl-7β-formamidoceph-3-em-4-carboxylate (3.22 g., 0.01 mole) in water (50 ml.) was treated with methanethiol (1.44 g., 0.03 mole) in a sealed glass tube at 70° for 2 hr. The contents of the tube were transferred to an open vessel and stirred at room temperature for 15 min. to allow the excess thiol to evaporate off. The solution was covered with ethyl acetate (50 ml.) and the pH of the aqueous layer adjusted to 1. The ethyl acetate layer was collected and combined with further ethyl acetate extracts (2 × 50 ml.) of the aqueous layer. The combined extract was washed successively with water (50 ml.) and brine (50 ml.), dried, and the solution evaporated, leaving impure 7β-formamido-3-methylthiomethylceph-3-em-4-carboxylic acid as a colourless foam (2.22 g.), which was dissolved in acetone (12 ml.) and ether (12 ml.), and a 10% w/v solution of sodium 2 -ethylhexanoate in acetone (12 ml.) was added. After refrigeration for 1 hr. the precipitate was collected by filtration, washed with acetone:ether (1:1, 2 × 10 ml.) and ether (2 × 20 ml.), and dried in vacuo giving sodium 7β-formamido-3-methylthiomethylceph-3-em-4-carboxylate as a colourless solid (1.69 g.), essentially homogeneous by thin-layer chromatography (trace of starting cephalosporanic acid), [α]D20 + 75.5° (c 1.00, water), λmax. (pH 6 buffer) 263 nm. (ε 7,760), νmax. (Nujol) 1760 (β-lactam), 1680, 1540 (amide), 1608 cm.-1 (CO2-), τ(D2O) 1.78 (1-proton singlet, CHO), 4.31 (1-proton doublet, J 4.5 Hz.: C-7H), 4.84 (1-proton doublet, J 4.5 Hz.: C-6 H) 6.20, 6.65 [two 1-proton doublets (branches or a quartet) J 17 Hz.: C-2 H2 ], 6.22, 6.69 [two 1-proton doublets (branches of a quartet), J 14 Hz.: C-3 CH2 ], 7.98 (3-proton singlet; SCH3)

reactant | Sodium 3-acetoxymethyl-7β-formamidoceph-3-em-4-carboxylate | 0.01 mole, 3.22 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)[O-])C([C@H]2NC=O)=O.[Na+]
reactant | methanethiol | 0.03 mole, 1.44 g | CS | CH4S
solvent | water | 50 ml | O | H2O
product | 7β-formamido-3-methylthiomethylceph-3-em-4-carboxylic acid | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC)C(=O)O)C1=O | C10H12N2O4S2
